US09353107B2
Step-iii: 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(3-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(3-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenoxy)piperidine-1-carboxylate (80 mg, 0.142 mmol) was deprotected in HCl in methanol (5 ml). This afforded 31 mg (37.7% yield) of the titled compound after purification by preparative HPLC. 1H NMR (CD3OD, 400 MHz): δ 8.70-8.50 (bs, 1H), 8.32 (s, 1H), 7.89 (s, 1H), 7.79 (s, 1H), 7.65 (s, 1H), 7.52-7.45 (t, 1H), 7.39-7.30 (m, 2H), 7.29-7.20 (t, 2H), 7.19-7.09 (m, 4H), 4.85-4.75 (m, 1H), 4.49-4.45 (t, 2H), 3.51-3.49 (m, 2H), 3.30-3.10 (m, 4H), 2.30-2.10 (m, 4H). MS: m/z=464.3 (M+1), HPLC: 95.43% in method A.

reactant | tert-butyl 4-(3-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenoxy)piperidine-1-carboxylate | 0.142 mmol, 80 mg | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CNC2=NC=C(C=C21)C=2C=C(OC1CCN(CC1)C(=O)OC(C)(C)C)C=CC2 | C34H37N5O3
solvent | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(3-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[2,3-b]pyridine | 31 mg, 37.7% yield | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CNC2=NC=C(C=C21)C2=CC(=CC=C2)OC2CCNCC2 | C29H29N5O
